US08669234B2
4-Cyano-pyrrolidine-1,2-dicarboxylic acid 2-[2-(6-bromo-naphthalen-2-yl)-2-oxo-ethyl]ester 1-tert-butyl ester:
Title compound was prepared according to the method employed to prepare pyrrolidine-1,2-dicarboxylic acid 2-[2-(6-bromo-naphthalen-2-yl)-2-oxo-ethyl]ester 1-tert-butyl ester in Example CL, substituting pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester with N-Boc-cis-4-cyano-L-proline methyl ester (643 mg, 67%)

reactant | pyrrolidine-1,2-dicarboxylic acid 2-[2-(6-bromo-naphthalen-2-yl)-2-oxo-ethyl]ester 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C(=O)OCC(=O)C1=CC2=CC=C(C=C2C=C1)Br | C22H24BrNO5
reactant | N-Boc-cis-4-cyano-L-proline methyl ester | 643 mg | COC([C@H]1N(C[C@H](C1)C#N)C(=O)OC(C)(C)C)=O | C12H18N2O4
product | 4-Cyano-pyrrolidine-1,2-dicarboxylic acid 2-[2-(6-bromo-naphthalen-2-yl)-2-oxo-ethyl]ester 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CC(C1)C#N)C(=O)OCC(=O)C1=CC2=CC=C(C=C2C=C1)Br | C23H23BrN2O5
